US05610177
b) Bis-(cyclohexylmethyl)acetyl chloride
A solution of 2.97 g (11.8 mmol) of bis-(cyclohexylmethyl)acetic acid in 20 mL SOCl2 was stirred at room temperature overnight. The SOCl2 was removed under reduced pressure, the residue taken up in Et2O, and the solvent removed under reduced pressure. The residue was taken up in hexane and the solvent removed under reduced pressure leaving 2.94 g (92.4% yield) of the product as an oil. The structure was confirmed by mass spectroscopy.

reactant | bis-(cyclohexylmethyl)acetic acid | 11.8 mmol, 2.97 g | C1(CCCCC1)CC(C(=O)O)CC1CCCCC1 | C16H28O2
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
product | Bis-(cyclohexylmethyl)acetyl chloride | 2.94 g, 92.4% yield | C1(CCCCC1)CC(C(=O)Cl)CC1CCCCC1 | C16H27ClO
